US03962229
α-[(Thioxomethyl)amino]benzeneacetic acid, diphenylmethyl ester
A solution of 15.9 g. (0.05 mol.) of α-phenylglycine, diphenylmethyl ester, and 9 g. of (0.1 mol.) of ethylthioformate in 50 ml. of tetrahydrofuran is stirred overnight at room temperature. Then a stream of hydrogen sulfide is passed into the solution for 10 minutes, the reaction mixture is permitted to stand overnight, then concentrated and petroleum ether is added to the residue. 16.9 g. of α-[(thioxomethyl)amino]benzeneacetic acid, diphenylmethyl ester, crystallizes. The crude product is recrystallized from methanol, m.p. 129°-130°.

reactant | α-phenylglycine, diphenylmethyl ester | 0.05 mol | C1(=CC=CC=C1)C(N)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO2
reactant | ethylthioformate | 0.1 mol | C(C)OC=S | C3H6OS
reactant | hydrogen sulfide | S | H2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-[(Thioxomethyl)amino]benzeneacetic acid, diphenylmethyl ester | S=CNC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H19NO2S
